### PR TITLE
[Merged by Bors] - feat(Topology/HomotopyGroup): first homotopy group iso fundamental group

### PR DESCRIPTION
**Pull request by WenrongZou**
---
This PR proves that first homotopy group is isomorphic to fundamental group. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Homotopy/HomotopyGroup.lean [hunk 1]
```diff
@@ -527,6 +525,27 @@ def homotopyGroupEquivFundamentalGroupOfUnique (N) [Unique N] :
...
+      (genLoopEquivOfUnique _ q).trans (genLoopEquivOfUnique _ p) := by
+  ext t
+  simp only [genLoopEquivOfUnique, GenLoop.transAt, GenLoop.copy,
+    one_div, Equiv.coe_fn_mk, GenLoop.mk_apply, ContinuousMap.coe_mk, Path.coe_mk', Path.trans,
+    Function.comp_apply]
+  refine ite_congr rfl (fun _ ↦ congrArg q ?_)
+    fun _ ↦ congrArg p ?_
+  <;> (ext i; exact (Unique.eq_default i ▸ rfl))
+
+lemma HomotopyGroup.genLoopEquivOfFinOne_transAt (p q : Ω^ (Fin 1) X x) :
```
Comment (WenrongZou) [inline Mathlib/Topology/Homotopy/HomotopyGroup.lean]: I was wondering why the lemma above doesn't work here.

File: Mathlib/Topology/Homotopy/HomotopyGroup.lean [hunk 2]
```diff
@@ -527,6 +525,27 @@ def homotopyGroupEquivFundamentalGroupOfUnique (N) [Unique N] :
 def HomotopyGroup.pi1EquivFundamentalGroup : π_ 1 X x ≃ FundamentalGroup X x :=
   homotopyGroupEquivFundamentalGroupOfUnique (Fin 1)
 
+lemma HomotopyGroup.genLoopEquivOfUnique_transAt (N) [Unique N] (p q : Ω^ N X x) :
```
Comment (j-loreaux) [inline Mathlib/Topology/Homotopy/HomotopyGroup.lean]:
```suggestion
lemma HomotopyGroup.genLoopEquivOfUnique_transAt (N) [DecidableEq N] [Unique N] (p q : Ω^ N X x) :
```

File: Mathlib/Topology/Homotopy/HomotopyGroup.lean [hunk 3]
```diff
@@ -527,6 +525,27 @@ def homotopyGroupEquivFundamentalGroupOfUnique (N) [Unique N] :
...
+    genLoopEquivOfUnique _ (transAt default q p) =
+      (genLoopEquivOfUnique _ q).trans (genLoopEquivOfUnique _ p) := by
+  ext t
+  simp only [genLoopEquivOfUnique, GenLoop.transAt, GenLoop.copy,
+    one_div, Equiv.coe_fn_mk, GenLoop.mk_apply, ContinuousMap.coe_mk, Path.coe_mk', Path.trans,
+    Function.comp_apply]
+  refine ite_congr rfl (fun _ ↦ congrArg q ?_)
+    fun _ ↦ congrArg p ?_
+  <;> (ext i; exact (Unique.eq_default i ▸ rfl))
```
Comment (j-loreaux) [inline Mathlib/Topology/Homotopy/HomotopyGroup.lean]:
```suggestion
  <;> (ext i; rw [Unique.eq_default i]; simp)
```

File: Mathlib/Topology/Homotopy/HomotopyGroup.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Topology/Homotopy/HomotopyGroup.lean]: It's because `transAt` takes a `DecidableEq N` argument and without it in the previous lemma, Lean picks one which is not the one for `Fin 1`. Note that one could prove this with `convert HomotopyGroup.genLoopEquivOfUnique_transAt (Fin 1) p q`, but with my changes above, this lemma is no longer necessary at all (and it would work with `exact`).

File: Mathlib/Topology/Homotopy/HomotopyGroup.lean [hunk 4]
```diff
@@ -527,6 +525,27 @@ def homotopyGroupEquivFundamentalGroupOfUnique (N) [Unique N] :
...
+
+lemma HomotopyGroup.genLoopEquivOfFinOne_transAt (p q : Ω^ (Fin 1) X x) :
+    genLoopEquivOfUnique _ (transAt 0 q p) =
+      (genLoopEquivOfUnique _ q).trans (genLoopEquivOfUnique _ p) := by
+  ext t
+  simp only [genLoopEquivOfUnique, Fin.default_eq_zero, Fin.isValue, GenLoop.transAt, GenLoop.copy,
+    one_div, Equiv.coe_fn_mk, GenLoop.mk_apply, ContinuousMap.coe_mk, Path.coe_mk', Path.trans,
+    Function.comp_apply]
+  exact ite_congr rfl (fun _ ↦ congrArg q (List.ofFn_inj.mp rfl))
+    fun _ ↦ congrArg p (List.ofFn_inj.mp rfl)
```
Comment (j-loreaux) [inline Mathlib/Topology/Homotopy/HomotopyGroup.lean]:
```suggestion
```

File: Mathlib/Topology/Homotopy/HomotopyGroup.lean [hunk 5]
```diff
@@ -595,4 +614,25 @@ instance commGroup [Nontrivial N] : CommGroup (HomotopyGroup N X x) :=
...
+/-- The homotopy group at `x` indexed by a singleton is isomorphic to the fundamental group,
+  i.e. the loops based at `x` up to homotopy. -/
+def homotopyGroupOfUniqueMulEquivFundamentalGroup (N) [Unique N] :
+    HomotopyGroup N X x ≃* FundamentalGroup X x where
+  toEquiv := homotopyGroupEquivFundamentalGroupOfUnique N
+  map_mul' a b := by
+    refine Quotient.inductionOn₂ a b fun p q => by
+      simp only [HomotopyGroup.mul_spec (i := default)]
+      apply Quotient.sound
+      simp [genLoopEquivOfUnique_transAt]
```
Comment (j-loreaux) [inline Mathlib/Topology/Homotopy/HomotopyGroup.lean]:
```suggestion
  map_mul' a b := Quotient.inductionOn₂ a b fun p q => by
    simp only [HomotopyGroup.mul_spec (i := default)]
    apply Quotient.sound
    simp [genLoopEquivOfUnique_transAt]
```

File: Mathlib/Topology/Homotopy/HomotopyGroup.lean [hunk 6]
```diff
@@ -595,4 +614,25 @@ instance commGroup [Nontrivial N] : CommGroup (HomotopyGroup N X x) :=
...
+
+/-- The first homotopy group at `x` is isomorphic to the fundamental group. -/
+def pi1MulEquivFundamentalGroup :
+    π_ 1 X x ≃* FundamentalGroup X x where
+  toEquiv := HomotopyGroup.pi1EquivFundamentalGroup (X := X) (x := x)
+  map_mul' a b := by
+    refine Quotient.inductionOn₂ a b fun p q => by
+      simp only [HomotopyGroup.mul_spec (i := (0 : Fin 1))]
+      apply Quotient.sound
+      simp [genLoopEquivOfFinOne_transAt]
```
Comment (j-loreaux) [inline Mathlib/Topology/Homotopy/HomotopyGroup.lean]:
```suggestion
  map_mul' a b := Quotient.inductionOn₂ a b fun p q => by
    simp only [HomotopyGroup.mul_spec (i := default)]
    apply Quotient.sound
    rw [genLoopEquivOfUnique_transAt (Fin 1) p q]
```

**Review by j-loreaux — COMMENTED** [review]
bors d+
